US07601850B2
B. 5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonic acid acetyl-amide
A mixture of 5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonic acid amide (227 mg, 0.4 mmol), EDCI (92 mg, 0.48 mmol), acetic acid (27 μL, 0.48 mmol) and DMAP (50 mg) in dichloromethane (10 ml) is stirred at RT overnight. The reaction is diluted with dichloromethane and washed with 1N HCl. The organic phase is concentrated and chromatographed (Hex to 20% EtOAc/Hex) to give the title compound (240 mg, 98%). 1H NMR (CDC3) δ 7.99 (s, 1H), 7.02 (d 1H, J=8.8 Hz), 6.96 (s, 1H), 6.69 (d, 1H, J=8.8 Hz), 6.59 (s, 1H), 3.98 (dd, 1H, J=3.4, 9.8 Hz), 3.85 (dd, 1H, J=5.8, 9.8 Hz), 3.67 (dd, 1H, J=3.4, 5.8 Hz), 2.43 (s, 3H), 2.20 (s, 3H), 2.13 9s, 3H), 2.06 (q, 4H), 0.96 (s, 9H), 0.89 (s, 9H), 0.70 (t, 6H), 0.11 (s, 3H), 0.05 (s, 3H);

reactant | 5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonic acid amide | 0.4 mmol, 227 mg | C(C)(C)(C)[Si](OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)N)C)C)C(C)(C)C)(C)C | C29H49NO4S2Si
reactant | EDCI | 0.48 mmol, 92 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | acetic acid | 0.48 mmol, 27 μL | C(C)(=O)O | C2H4O2
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophene-2-sulfonic acid acetyl-amide | 240 mg, 98% | C(C)(=O)NS(=O)(=O)C=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C | C31H51NO5S2Si
